US07981874B2
A solution of tert-butyl [2-(diisopropylphosphoryl)ethyl](4-methoxybenzyl)carbamate (1.06 g, 2.68 mmol) in MeCN (20 mL) was cooled to 0° C. CAN (4.40 g, 8.03 mmol) in water (10 mL) was added dropwise via addition funnel over 15 minutes, and the reaction was subsequently stirred at 0° C. for an additional 1 h. The solution was then diluted with water and extracted with EtOAc (4×). The combined organic layers were washed with 10% Na2SO3 (2×). The sodium sulfite layers were then back-extracted with additional EtOAc (2×). All of the organic extracts were combined, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/CH2Cl2) afforded tert-butyl [2-(diisopropylphosphoryl)ethyl]carbamate as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 5.59 (bs, 1H), 3.50-3.42 (dt, J=13.0, 6.5 Hz, 2H), 2.01-1.92 (m, 2H), 1.88-1.83 (m, 2H), 1.39 (s, 9H), 1.18 (dd, J=14.9, 7.2 Hz, 6H), 1.14 (dd, J=15.3, 7.2 Hz, 6H). MS: cal'd 278 (MH+), exp 278 (MH+).

reactant | tert-butyl [2-(diisopropylphosphoryl)ethyl](4-methoxybenzyl)carbamate | 2.68 mmol, 1.06 g | C(C)(C)P(=O)(C(C)C)CCN(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)OC | C21H36NO4P
reactant | CAN | 8.03 mmol, 4.40 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | MeCN | 20 mL | CC#N | C2H3N
solvent | water | 10 mL | O | H2O
product | tert-butyl [2-(diisopropylphosphoryl)ethyl]carbamate | C(C)(C)P(=O)(C(C)C)CCNC(OC(C)(C)C)=O | C13H28NO3P
